Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___
 
___ Complaint:
Encephalopathy, hypotension, tachycardia, fevers
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is an ___ year-old ___ man with PMH of 
bladder cancer s/p radical cystectomy/ileal conduit at ___ on 
___, HTN who was sent in from ___ with AMS and fevers.  
 
In the ED, initial vitals:  T 102.2, HR 95, BP 142/60, RR 28, O2 
98% RA
- Exam notable for diffuse mild abdominal pain, bibasilar 
crackles L>R 
- Labs were notable for: WBC 15.2, Hgb 8.8, HCO3 16, Cr 2.1, AG 
17, lactate 1.0. UA +nitrites, >182 WBCs, many bacteria, 100 
protein 
- Imaging:  CXR with patchy left base opacity, CT A/P with 6.0 x 
2.6 cm solid material intermixed with gas at site of cystectomy. 
Surgical material vs. feces. CT head with moderate global 
cerebral atrophy
- Patient was given: 4L IVF, Vancomycin 1 g, cefepime 2g, 
started on norepinephrine for SBP ___ despite IVF with 
unchanged mental status
- Consults: seen by urology who initially recommended transfer 
to ___ but ED was unable to arrange given pressor need.  Felt 
mass may be surgicell, sponge.  

On arrival to the MICU, he was rigoring, tachypneic to mid-high 
___, and having difficulty speaking to interpreter over phone. 
Given respiratory distress decision was made to intubate after 
discussion with son ___, HCP listed in ___ records. 
 
REVIEW OF SYSTEMS:  
(+) Per HPI  
 
Past Medical History:
- Recurrent bladder cancer: s/p cystectomy, prostatectomy, 
bilateral ureteral stents, bilateral pelvic lymph node 
dissection with ileal loop conduit ___. Pathology with high 
grade invasive urothelial carcinoma of bladder, focal squamous 
differentiation. Papillary urothelial carcinoma. ___ lymph nodes 
positive. Ureters with urothelial atypia. Previously underwent 
GOLF chemotherapy and radiation therapy ___
- Poorly differentiated gastric adenocarcinoma
- ?metastastic liver disease: Previous lesions seen in ___, 
but no definitive evidence of metastasis to solid organs of 
abdomen on CT ___
- HTN
- HLD
- Gastric ulcer
- Anemia
- Vit B deficiency
- Chronic hepatitis B
- Renal cysts
- Nephrolithiasis
- Gout
- Distal gastrectomy
- Billroth II procedure for gastric cancer 1970s

 
Social History:
___
Family History:
- Unable to obtain on admission

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VITALS:  T 100.4, HR 89, BP 148/63, O2 100%
GENERAL: Intubated sedated 
HEENT: PERRL, anicteric sclera, pink conjunctiva 
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB anteriorly, mechanical breath sounds throughout 
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema
PULSES: 2+ DP pulses bilaterally  
NEURO: Intubated and sedated 

DISCHARGE PHYSICAL EXAM: 
Gen: 100% on shovel mask, T 97.5 Bp 118/69 HR 55 
HEENT: MMM. 
LUNGS: CTAB
HEART: RRR, no m/r/g
ABDOMEN: NTND, active bowel sounds. Ileal conduit in place with 
yellow urine, clear. 
Lower Ext: No lower ext edema
Neuro: No focal deficits. A&Ox3. 

 

 
Pertinent Results:
________________________
ADMISSION LABS: 
___ 07:50PM BLOOD WBC-15.2* RBC-2.99* Hgb-8.8* Hct-27.4* 
MCV-92 MCH-29.4 MCHC-32.1 RDW-13.7 RDWSD-46.4* Plt ___
___ 07:50PM BLOOD Neuts-84.4* Lymphs-6.3* Monos-8.4 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-12.82* AbsLymp-0.95* 
AbsMono-1.27* AbsEos-0.00* AbsBaso-0.03
___ 09:01PM BLOOD ___ PTT-29.6 ___
___ 07:50PM BLOOD Glucose-128* UreaN-26* Creat-2.1* Na-133 
Cl-100 HCO3-16* AnGap-22*
___ 03:57AM BLOOD ALT-41* AST-35 LD(LDH)-203 AlkPhos-337* 
DirBili-0.3
___ 03:57AM BLOOD Albumin-2.8* Calcium-7.3* Phos-5.5* 
Mg-1.8
___ 03:57AM BLOOD Hapto-435*
___ 04:07AM BLOOD Type-CENTRAL VE pO2-30* pCO2-44 pH-7.12* 
calTCO2-15* Base XS--16
________________________
PERTINENT LABS: 
___ 07:50PM   PLT COUNT-348
___ 07:50PM BLOOD Glucose-128* UreaN-26* Creat-2.1* Na-133 
Cl-100 HCO3-16* AnGap-22*
___ 03:57AM BLOOD Glucose-156* UreaN-25* Creat-2.0* Na-140 
K-5.8* Cl-110* HCO3-11* AnGap-25*
___ 12:51PM BLOOD Glucose-113* UreaN-25* Creat-2.1* Na-140 
K-4.6 Cl-112* HCO3-15* AnGap-18
___ 04:07AM BLOOD Type-CENTRAL VE pO2-30* pCO2-44 pH-7.12* 
calTCO2-15* Base XS--16
___ 07:08AM BLOOD ___ pO2-40* pCO2-35 pH-7.28* 
calTCO2-17* Base XS--9
___ 01:36PM BLOOD ___ pO2-43* pCO2-29* pH-7.34* 
calTCO2-16* Base XS--8
___ 04:31AM BLOOD ___ pO2-46* pCO2-35 pH-7.30* 
calTCO2-18* Base XS--7
___ 08:03PM BLOOD Lactate-1.1 K-4.8
___ 10:56PM BLOOD Lactate-1.0
___ 04:07AM BLOOD Lactate-5.5*
___ 07:08AM BLOOD Lactate-2.1* K-4.2
________________________
DISCHARGE LABS: 
___ 12:20PM BLOOD WBC-12.3* RBC-2.71* Hgb-7.8* Hct-24.9* 
MCV-92 MCH-28.8 MCHC-31.3* RDW-15.4 RDWSD-51.5* Plt ___
___ 03:55AM BLOOD Neuts-87* Bands-2 Lymphs-4* Monos-6 Eos-0 
Baso-1 ___ Myelos-0 AbsNeut-11.93* AbsLymp-0.54* 
AbsMono-0.80 AbsEos-0.00* AbsBaso-0.13*
___ 03:55AM BLOOD ___ PTT-38.5* ___
___ 03:55AM BLOOD ___
___ 03:55AM BLOOD Ret Aut-1.2 Abs Ret-0.03
___ 03:55AM BLOOD Glucose-115* UreaN-25* Creat-2.1* Na-140 
K-4.8 Cl-112* HCO3-14* AnGap-19
___ 03:55AM BLOOD ALT-28 AST-41* AlkPhos-230* TotBili-0.4
___ 03:55AM BLOOD Calcium-7.6* Phos-3.6 Mg-1.9 Iron-11*
___ 03:55AM BLOOD calTIBC-121* Hapto-372* Ferritn-346 
TRF-93*
___ 06:08AM BLOOD D-Dimer-5732*
___ 04:31AM BLOOD ___ pO2-46* pCO2-35 pH-7.30* 
calTCO2-18* Base XS--7
___ 07:39AM BLOOD Lactate-1.0

MICRO:
___ 8:52 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH FECAL
      CONTAMINATION

BCX X 2 (4 BOTTLES) ___, BCX X 1 (2 BOTTLES) ___ NGTD

IMAGING:
CXR ___
Patchy left base opacity is nonspecific but could be due to 
pneumonia in the appropriate clinical setting. 

CT ABD/PELVIS NON CON ___
Final Report 
INDICATION:  NO_PO contrast; History: ___ with abd pain, fever, 
amsNO_PO 
contrast  // intraabdominal infection 
  
TECHNIQUE:  Multidetector CT images of the abdomen and pelvis 
were acquired 
without intravenous contrast. Non-contrast scan has several 
limitations in 
detecting vascular and parenchymal organ abnormalities, 
including tumor 
detection. 
Oral contrast was not administered. 
Coronal and sagittal reformations were performed and reviewed on 
PACS. 
  
DOSE:  Acquisition sequence: 
   1) Spiral Acquisition 5.0 s, 54.5 cm; CTDIvol = 13.4 mGy 
(Body) DLP = 730.8 
mGy-cm. 
 Total DLP (Body) = 731 mGy-cm. 
  
COMPARISON:  None. 
  
FINDINGS:  
  
LOWER CHEST: No consolidation or mass is identified in bilateral 
lung bases.  
Atelectasis is minimal. 
  
ABDOMEN: 
  
  
HEPATOBILIARY: Liver demonstrates homogeneous attenuation 
throughout.  No 
focal lesion is identified within the limits of unenhanced scan. 
 Intra and 
extrahepatic bile ducts are not dilated.  Gallbladder is 
unremarkable. 
  
  
PANCREAS: Pancreas is homogeneous in attenuation throughout.  
There is no 
pancreatic duct dilation. 
  
SPLEEN: Spleen is not enlarged. 
  
ADRENALS: Left adrenal gland appears mildly thickened without 
discrete nodule. 
Right adrenal gland is unremarkable. 
  
URINARY: Patient is post cystectomy and ileal conduit.  
Bilateral ureteral 
stents are in place.  There is no hydronephrosis.  Multiple 
renal cysts are 
identified in bilateral kidneys.  Largest cyst in the right 
kidney measures 
8.2 cm.  Largest cyst in the left kidney measures 7.1 cm. 
  
GASTROINTESTINAL: Patient is post partial gastrectomy. Small and 
large bowel 
loops are normal caliber. Appendix is not visualized. 
  
PELVIS: No free fluid is identified in the pelvis. 6.0 x 2.6 cm 
region of 
mixed lucencies/gas in the deep pelvis (2:82).  It was later 
discovered that 
patient's surgery was 3 weeks prior, reported as ___, so 
this finding 
most likely represents surgicel. 
  
LYMPH NODES: No pathologically enlarged lymph node is 
identified.  Mild edema 
is noted. 
  
VASCULAR: There is no abdominal aortic aneurysm.  Mild 
Atherosclerotic disease 
is noted. 
  
BONES: L4 vertebral body compression deformity is likely 
chronic.  No 
suspicious bone lesion is identified. 
  
SOFT TISSUES:  There is diffuse subcutaneous tissue edema. 
  
IMPRESSION: 
  
  
1. 6.0 x 2.6 cm region of possible material intermixed with gas 
is identified 
in the deep pelvis at the site of cystectomy.  Finding may 
reflect surgical 
material (ie surgicel).  Please correlate with prior surgical 
history.  Please 
note that after the original dictation of this report, it was 
reported that 
surgicel was used during the surgical procedure 

CT HEAD ___. No acute intracranial process. 
2. Moderate global cerebral atrophy. 
3. Multifocal sinus disease, as above. 

REPEAT NON CON CT ABD/PELVIS ___
EXAMINATION:  CT abdomen and pelvis with contrast. 
  
INDICATION:  ___ year old man with hx urologic cancer s/p 
cystectomy, ileal 
conduit here w/sepsis  // Please obtain CT abdpelvis with PO and 
PR contrast 
(NOT IV) to evaluate for fluid collection; ?rectal perforation 
  
TECHNIQUE:  CT ABDOMEN PELVIS WITHOUT CONTRAST 
Oral and rectal contrast were administered. 
Coronal and sagittal reformations were performed and reviewed on 
PACS. 
  
DOSE:  Found no primary dose record and no dose record stored 
with the sibling 
of a split exam. 
!If this Fluency report was activated before the completion of 
the dose 
transmission, please reinsert the token called CT DLP Dose to 
load new data. 
  
COMPARISON:  CT abdomen pelvis from ___. 
  
FINDINGS:  
  
LOWER CHEST: Trace bilateral pleural effusions with overlying 
compressive 
atelectasis.  Central line tip in the right atrium.  Heart is 
mildly enlarged, 
similar to prior. 
  
ABDOMEN: 
  
HEPATOBILIARY: The liver demonstrates homogenous attenuation 
throughout.  
There is no evidence of focal lesions.  There is no evidence of 
intrahepatic 
or extrahepatic biliary dilatation.  The gallbladder is mildly 
distended.  No 
pericholecystic fluid, gallbladder wall thickening or 
cholelithiasis. 
  
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of 
focal lesions or pancreatic ductal dilatation.  There is no 
peripancreatic 
stranding. 
  
SPLEEN: The spleen shows normal size and attenuation throughout, 
without 
evidence of focal lesions. 
  
ADRENALS: Persistent mild thickening of the left adrenal gland.  
The right 
adrenal gland is normal. 
  
URINARY:  Patient is post cystectomy and right lower quadrant 
ileal conduit 
placement. Bilateral ureteral stents are noted with the distal 
portion 
identified within the ileal conduit in the right lower pelvis.  
Additional 
percutaneous catheters within right lower quadrant conduit.  
There is no 
hydronephrosis.  Bilateral renal cysts are identified, largest 
of which 
measures up to 8 cm within the interpolar region of the right 
kidney.  There 
is nonobstructing stone in the lower pole of the right kidney.  
There is no 
perinephric abnormality. 
  
GASTROINTESTINAL:  Post partial gastrectomy, with an enteric 
tube present and 
its tip in the gastric body. Small bowel loops demonstrate 
normal caliber, 
wall thickness, and enhancement throughout.  The colon is normal 
in caliber.  
The appendix is not visualized.  A rectal tube is present within 
the lower 
rectum.  Again seen area within the lower pelvis containing 
multiple foci of 
air/lucencies measuring approximately 13 x 62 mm, likely 
represents Surgicel 
given recent surgery.  Clinically correlate to exclude 
infection.  There is no 
contrast extravasation to suggest bowel perforation. 
  
PELVIS: Post cystectomy and ileal conduit placement.  There is 
no free fluid 
in the pelvis. 
  
REPRODUCTIVE ORGANS: The visualized reproductive organs are 
unremarkable. 
  
LYMPH NODES: There is no retroperitoneal or mesenteric 
lymphadenopathy.  There 
is no pelvic or inguinal lymphadenopathy. 
  
VASCULAR: There is no abdominal aortic aneurysm.  Mild 
atherosclerotic disease 
is noted.  There is left femoral line tip seems to be posterior 
to the 
posterior wall of the left common iliac vein.  There is no 
adjacent hematoma. 
  
BONES: There is no evidence of worrisome osseous lesions or 
acute fracture.  
An L4 vertebral body compression deformity is unchanged. 
  
SOFT TISSUES:  There is diffuse anasarca. Bilateral fat 
containing inguinal 
hernias are present. 
  
IMPRESSION: 
  
  
1. No evidence of contrast extravasation to suggest rectal 
perforation. 
2. Persistent 6 cm collection containing multiple lucent foci 
within the 
surgical bed in the lower pelvis. This finding likely reflects 
Surgicel, given 
recent surgical history.  Close clinical follow-up recommended 
to exclude 
infection. 
3. Post cystectomy and ileal conduit placement.  No evidence of 
hydronephrosis. 
4. Left femoral catheter tip seems to be posterior to the left 
common iliac 
vein, no adjacent hematoma. 

 
Brief Hospital Course:
___ is an ___ year-old ___ man with PMH of 
bladder cancer s/p radical cystectomy/ileal conduit at ___ on 
___, gastric adenocarcinoma, ?metastatic disease, HTN who was 
sent in from ___ with AMS and fevers, septic shock and material 
in pelvis of uncertain etiology (post surgical vs. fecal) 
intubated on arrival for respiratory distress, extubated on 
___, improving on antibiotics but with an unidentified source 
of infection still and then transferred to ___ 
which is his site of primary care. 
_____________________________
ICU COURSE (___):

#SEPTIC SHOCK: 
Presented with fevers, AMS, hypotension requiring pressors 
(Levophed) and rising leukocytosis. Most likely urologic or 
intra-abdominal source. No cough prior to intubation despite 
patchy opacity in L lower lobe. Recent cystectomy at ___ with 
leukocytosis, fevers, AMS, UA c/f infection but to be expected 
with new ileal conduit per urology. Per discussion with urology, 
not clear that this is purely urologic source. S/p 4L NS IVF and 
vanc/cefepime in ED ___ ___. Lactate 5.5 initially in ICU. S/p 3 
additional L (1L NS, 2 L of LR) IVF in ICU and lactate improved 
to 2.1 by ___ @ 0700. Spoke to ___ about draining a fluid 
collection around his surgicel in the abdomen at the site of his 
cystectomy, but they didn't feel that there was anything 
drainable. Colorectal surgery recommended at CT A/P with rectal 
contrast to look for rectal perforation as a source of 
infection. The study was performed and there were no signs of 
perforation. The patient's fevers and hypotension continued 
overnight despite continued treatment with Vancomycin and Zosyn. 
At this point it was felt to be very unlikely that the fluid 
collection was the source of infection given that the surgery 
was weeks ago, and it would be odd for the collection to become 
infected so far out. Urine culture was negative, so the 
kidneys/conduit were not felt to be a source. Bacterial 
translocation was considered as a possibility, though no blood 
cultures were positive at discharge. Because the patient was 
improving clinically with stable hemodynamics and a lactate back 
down to 1.0, ID felt that it was appropriate to stop micafungin 
and vancomycin and to just continue Zosyn. 

Pressors at discharge: Levophed @ 0.08

#RESPIRATORY FAILURE: 
Intubated on arrival to ICU for tachypnea ___, unable to speak 
in full sentences. CXR with patchy left base opacity but per 
report no cough recently. Was on propofol/fentanyl for sedation, 
pressure support ventilation, and extubated successfully on ___ 
AM. 

#COAGULOPATHY: 
INR 1.5 and PTT 51 from previously normal. Concern for DIC in 
setting of septic shock, but platelet count was stable and 
fibrinogen was elevated. No evidence of hemolysis as haptoglobin 
was elevated, LDH was low and Tbili was low. Likely secondary to 
the patient's septic shock or antibiotic use, as his INR was 1.0 
on arrival so does not appear to be nutritional and there was no 
evidence of liver failure (His alkaline phosphatase was elevated 
and then came down with treatment, which was possibly from 
cholestasis of sepsis).

#ACIDOSIS: 
Initially anion gap with a large base deficit, then non-anion 
gap. Felt to be a combination of the elevated lactate which was 
resolved and all of the chloride the patient received from 
normal saline, causing a hyperchloremic acidosis (patients with 
ileal conduits take up chloride in exchange for bicarb as the 
urine passes through). 

#BLADDER CANCER S/P RADICAL CYSTECTOMY: 
Underwent procedure at ___ ___. Operative report in chart. 
Urology consulted and saw the patient in the ED, and their main 
recommendations were to get colorectal surgery involved to 
evaluate for a bowel perforation. 

#ANEMIA: 
Hgb 8.8 on admission, at previous baseline per ___ records. 
Dropped to 6.7 on ___ AM. Looked dilution and gave 1U pRBC and 
the patient responded appropriately to Hgb 7.8. 

#ACUTE KIDNEY INJURY: 
Cr 2.1 on admission, baseline appears 1.2-1.3 per ___ records. 
Likely pre-renal component in setting of sepsis, although this 
may be the patient's new baseline as he remained stable at Cr 
2.1. 

#CODE STATUS: Patient urgently intubated on admission with 
consent from HCP who is the patient's son ___ 
listed HCP) ___. Per code status conversation on 
admission to ___, patient was DNR, OK to intubate. At 
preparation for discharge, code status was re-addressed with 
HCP, particularly in-relation to whether the patient would want 
re-intubation should he develop new respiratory distress. HCP 
was undecided about code status and wanted to readdress with his 
father. Therefore, code status upon transfer to ___ 
___ was FULL CODE as agreed by patient's HCP. 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Pantoprazole 40 mg PO Q24H 
2. multivitamin with folic acid ___ mcg oral DAILY 
3. Allopurinol ___ mg PO DAILY 
4. Tenofovir Disoproxil (Viread) 300 mg PO Q48H 
5. Ondansetron 4 mg PO Q8H:PRN nausea 
6. OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Moderate 


 
Discharge Medications:
1.  Heparin 5000 UNIT SC BID  
2.  NORepinephrine 0.03-0.42 mcg/kg/min IV DRIP TITRATE TO MAP > 
65  
3.  Piperacillin-Tazobactam 2.25 g IV Q6H  
4.  Tenofovir Disoproxil (Viread) 300 mg PO Q48H  
5. HELD- Allopurinol ___ mg PO DAILY  This medication was held. 
Do not restart Allopurinol until you discuss with your doctors 
at ___. 
6. HELD- multivitamin with folic acid ___ mcg oral DAILY  This 
medication was held. Do not restart multivitamin with folic acid 
until you discuss with your doctors at ___. 
7. HELD- Ondansetron 4 mg PO Q8H:PRN nausea  This medication was 
held. Do not restart Ondansetron until you discuss with your 
doctors at ___. 
8. HELD- OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate  This medication was held. Do not restart OxyCODONE 
(Immediate Release) until you discuss with your doctors at 
___. 
9. HELD- Pantoprazole 40 mg PO Q24H  This medication was held. 
Do not restart Pantoprazole until you discuss with your doctors 
at ___. 

 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
Primary: 
- Septic shock
- Respiratory failure
- Metabolic acidosis
- Coagulopathy
- Anemia
- Acute Kidney Injury

Secondary: 
- History of gastric cancer
- Bladder cancer s/p cystectomy

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ because you had fevers, were 
confused, were unable to breath well and your blood pressure was 
very low. 

In the ICU (intensive care unit) the following was done for you:
- You were put on a breathing machine until you were able to 
breath on your own
- You were given medications to keep your blood pressure from 
dropping too low so that your organs still received enough 
oxygen to stay alive
- You were treated with antibiotics
- Tests were done to look for a source of infection, but no 
obvious infection was found

We are transferring you to ___ where you 
usually get your medical care, and they will continue to care 
for you.

We wish you all the best!
Your ___ Team
 
Followup Instructions:
___